US07049325B2
A solution of 6-methoxy-2-methylsulfanyl-quinoline (1.0 g, 5 mmoles) in 100 mL 1:1 MeOH/THF was treated with a solution of 5 g OXONE™ in 50 mL water and stirred for 2–3 hours until the oxidation is complete. The mixture is poured into water and extracted with EtOAc. The organic phase is dried and evaporated to yield 2-methanesulfonyl-6-methoxy-quinoline as a crystalline white product.

reactant | 6-methoxy-2-methylsulfanyl-quinoline | 5 mmoles, 1.0 g | COC=1C=C2C=CC(=NC2=CC1)SC | C11H11NOS
reactant | MeOH THF | CO.C1CCOC1
reactant | OXONE | 5 g | OOS(=O)[O-].[K+]
solvent | water | 50 mL | O | H2O
product | 2-methanesulfonyl-6-methoxy-quinoline | CS(=O)(=O)C1=NC2=CC=C(C=C2C=C1)OC | C11H11NO3S
